US05506242
To a solution of 2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-6-[(N,N-dimethylglycyl)amino] hexanoic acid hydrochloride (4.12 g, 7.82 mmol) in methylene chloride (78 mL) and dimethylformamide (5 mL) is added 1-hydroxybenzotriazole monohydrate (1.26 g, 8.21 mmol), N-methylmorpholine (2.58 ml, 23.45 mmol), and O-t-butylhydroxylamine hydrochloride (1.08 g, 8.60 mmol). The reaction is cooled to 0° C., and N-[dimethylaminopropyl]-N'-ethylcarbodiimide hydrochloride (3.0 g, 15.64 mmol) is added. The reaction mixture is warmed to room temperature and stirred overnight. The mixture is then diluted with methylene chloride and washed with saturated aqueous sodium bicarbonate, and then with brine. The organic layer is dried (Na2SO4), filtered, and and the solvent is evaporated. The crude product is purified by silica gel chromatography (10/0.5/0.5 ethyl acetate/methanol/ammonium hydroxide ) to provide N-(t-butyloxy)-2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-6-[(N,N-dimethylglycyl)amino] hexanamide.

reactant | 2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-6-[(N,N-dimethylglycyl)amino] hexanoic acid hydrochloride | 7.82 mmol, 4.12 g | Cl.COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)O)CCCCNC(CN(C)C)=O)CC1=CC=CC=C1
reactant | 1-hydroxybenzotriazole monohydrate | 8.21 mmol, 1.26 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 23.45 mmol, 2.58 ml | CN1CCOCC1 | C5H11NO
reactant | O-t-butylhydroxylamine hydrochloride | 8.60 mmol, 1.08 g | Cl.C(C)(C)(C)ON
reactant | N-[dimethylaminopropyl]-N'-ethylcarbodiimide hydrochloride | 15.64 mmol, 3.0 g | Cl.CN(C)CCCN=C=NCC
solvent | methylene chloride | 78 mL | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-(t-butyloxy)-2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-6-[(N,N-dimethylglycyl)amino] hexanamide | C(C)(C)(C)ONC([C@@H](CCCCNC(CN(C)C)=O)N(CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C28H42N4O6S
